US07067517B2
Methyl-phenyl-carbamic acid 4-pentyl-phenyl ester
The title product was prepared from 4-pentylphenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (4%, light brown oil). HPLC-MS: m/z=298.2 (M+1); Rt: 5.61 min.

reactant | 4-pentylphenol | C(CCCC)C1=CC=C(C=C1)O | C11H16O
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-pentyl-phenyl ester | C(CCCC)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C19H23NO2
